US07001904B1
N-(3-dimethylaminopropyl)-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(N-methylpyrrolidin-3-yloxy)quinazolin-4-yl]guanidine
1,1′-(Azodicarbonyl)dipiperidin (0.36 g) was added to a mixture of N-(3-dimethylaminopropyl)-N′-(2,6-dimethylphenyl)-N″-(7-hydroxy-6-methoxyquinazolin-4-yl)guanidine (0.1 g), 3-hydroxy-N-methylpyrrolidine (0.143 g), tributylphosphine (0.35 ml) and THF (15 ml). The resultant mixture was stirred at ambient temperature for 2 days. The mixture was filtered and the filtrate was evaporated. The residue so obtained was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and a 2M solution of ammonia gas in methanol as eluent. There was thus obtained the title compound (0.052 g); NMR Spectrum: (DMSOd6, 100° C.) 0.89 (t, 2H), 1.75 (m, 2H), 2.1 (s, 6H), 2.37 (s, 6H), 2.32 (s, 3H), 2.27 (m, 2H), 3.21 (t, 2H), 3.31 (t, 2H), 3.55 (t, 2H), 3.77 (s, 3H), 5.0 (t, 1H), 6.98 (s, 1H), 7.17 (s, 3H), 7.61 (s, 1H), 8.4 (s, 1H), 10.8 (br s, 1H); Mass Spectrum: M+H+ 506.

reactant | 1,1′-(Azodicarbonyl)dipiperidin | 0.36 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | N-(3-dimethylaminopropyl)-N′-(2,6-dimethylphenyl)-N″-(7-hydroxy-6-methoxyquinazolin-4-yl)guanidine | 0.1 g | CN(CCCNC(=NC1=NC=NC2=CC(=C(C=C12)OC)O)NC1=C(C=CC=C1C)C)C | C23H30N6O2
reactant | 3-hydroxy-N-methylpyrrolidine | 0.143 g | OC1CN(CC1)C | C5H11NO
reactant | tributylphosphine | 0.35 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-(3-dimethylaminopropyl)-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(N-methylpyrrolidin-3-yloxy)quinazolin-4-yl]guanidine | 0.052 g | CN(CCCNC(=NC1=NC=NC2=CC(=C(C=C12)OC)OC1CN(CC1)C)NC1=C(C=CC=C1C)C)C | C28H39N7O2
